US06307087B1
Synthesis of N-(2,5-Dimethylphenyl)-N-methylaniline
An oven-dried test tube was purged with argon and charged with Pd2(dba)3 (4.6 mg, 0.005 mmol, 1.0 mol % Pd), 2 [Example 1] (6.0 mg, 0.015 mmol, 1.5 mol %), and NaOt-Bu (135 mg, 1.40 mmol). The test tube was fitted with a septum, then toluene (2.0 mL), N-methylaniline (135 μL, 1.25 mmol), and 2-chloro-p-xylene (135 μL, 1.01 mmol) were added. The mixture was stirred at 80° C. for 13 h, then cooled to room temperature, diluted with ether (20 mL), filtered and concentrated. The crude material was purified by flash chromatography on silica gel to afford 202 mg (95%) of a colorless oil.

reactant | NaOt-Bu | 1.40 mmol, 135 mg | CC(C)(C)[O-].[Na+]
reactant | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | N-methylaniline | 1.25 mmol, 135 μL | CNC1=CC=CC=C1 | C7H9N
reactant | 2-chloro-p-xylene | 1.01 mmol, 135 μL | ClC1=C(C=CC(=C1)C)C | C8H9Cl
solvent | ether | 20 mL | CCOCC | C4H10O
catalyst | Pd2(dba)3 | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2,5-Dimethylphenyl)-N-methylaniline | 202 mg, 95% | CC1=C(C=C(C=C1)C)N(C1=CC=CC=C1)C | C15H17N
